US05409944
Step 3: 5-Acetylamino-6-bromo-1 -indanone
To a solution of 5-acetylamino-6-bromoindane (43.0 g, 0.17 mmol) in glacial acetic acid (400 ml) at 50°-55° C. was added dropwise a solution of chromium trioxide (70.0 g, 0.7 mmol) in 50% aqueous acetic acid (400 mL) over a period of 30 min. After further stirring for 15 min, the mixture was cooled to 0° C. and quenched with 2-propanol (100 mL). Solvent was removed in vacuo. The residue was diluted with water (1 L) and extracted with ethyl acetate (2×500 mL). The combined ethyl acetate layer was washed with 0.5M aqueous NaOH (1 L), brine, dried over anhydrous MgSO4 and concentrated to give 36 g (80%) of the title compound as a light brown solid which was contaminated with about 10% of 5-bromo-6-acetylamino- 1-indanone.

reactant | 5-acetylamino-6-bromoindane | 0.17 mmol, 43.0 g | C(C)(=O)NC=1C=C2CCCC2=CC1Br | C11H12BrNO
reactant | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 400 mL | C(C)(=O)O | C2H4O2
catalyst | chromium trioxide | 0.7 mmol, 70.0 g | [O-2].[O-2].[O-2].[Cr+6]
product | 5-Acetylamino-6-bromo-1 -indanone | 36 g, 80% | C(C)(=O)NC=1C=C2CCC(C2=CC1Br)=O | C11H10BrNO2
